US06649230B1
19.2 g (76.4 mmol) 11-bromo-1-undecanol, 7.2 g (84.1 mmol) methacrylic acid and 1.03 g (8.4 mmol) 4-dimethylaminopyridine were dissolved in 157 ml dichloromethane. The solution was subsequently cooled to 0° C. and then a solution of 17.4 g (84.2 mmol) dicyclohexylcarbodiimide in 80 ml dichloromethane was added dropwise, in the course of 45 minutes at 0° C. The reaction was allowed to warm to room temperature, stirred for 19 hours and filtered. The filtrate was concentrated by evaporation. Chromatography of the residue on 170 g silica gel using toluene yielded 19.3 g (98.4%) 2-methylacrylic acid 11-bromoundecyl ester.

reactant | 11-bromo-1-undecanol | 76.4 mmol, 19.2 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | methacrylic acid | 84.1 mmol, 7.2 g | C(C(=C)C)(=O)O | C4H6O2
reactant | dicyclohexylcarbodiimide | 84.2 mmol, 17.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 8.4 mmol, 1.03 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 157 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 2-methylacrylic acid 11-bromoundecyl ester | 19.3 g, 98.4% | BrCCCCCCCCCCCOC(C(=C)C)=O | C15H27BrO2
